US05438052
N-[(7-Mercapto-5-methyl-s-triazolo[1,5-a]-pyrimidin-2-yl)methyl]-2,2-diphenyl-1,3-benzodioxol-5-carboxamide (22.7 g) are stirred for 1 hour in 210 ml of trifluoroacetic acid and 5 ml of water. A small amount of insoluble material is filtered off and the mother liquor is evaporated to dryness. The yellow residue is treated with 900 ml of ethyl acetate, stirred in an ultrasound bath for 1 hour and subsequently cooled in an ice bath. The yellow solid is filtered off and dried in a vacuum at 40° C. There are obtained 14.4 g of 3,4-dihydroxy-N-(7-mercapto-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-benzamide as a yellow powder.

reactant | N-[(7-Mercapto-5-methyl-s-triazolo[1,5-a]-pyrimidin-2-yl)methyl]-2,2-diphenyl-1,3-benzodioxol-5-carboxamide | 22.7 g | SC1=CC(=NC=2N1N=C(N2)CNC(=O)C2=CC1=C(OC(O1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C2)C | C27H21N5O3S
solvent | trifluoroacetic acid | 210 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 5 ml | O | H2O
product | 3,4-dihydroxy-N-(7-mercapto-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-benzamide | 14.4 g | OC=1C=C(C(=O)NCC2=NN3C(N=C(C=C3S)C)=N2)C=CC1O | C14H13N5O3S
